US07595397B2
4-(4-Bromo-benzyl)-2-phenyl-thiomorpholine
5.632 g of 4-Bromobenzyl bromide and 2.694 g of 2-Phenylthiomorpholine (Array) in 50 mL of acetonitrile were stirred at room temperature and 6.229 g of potassium carbonate was added. The reaction was stirred at room temperature overnight. The solution was filtered through Celite and concentrated in vacuo to afford a brown solid. Purification was done by flash chromatography to afford product. Wt: 0.859 g, 53% yield. ES MS m/z 348/350

reactant | 4-Bromobenzyl bromide | 5.632 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 2-Phenylthiomorpholine | 2.694 g | C1(=CC=CC=C1)C1CNCCS1 | C10H13NS
reactant | potassium carbonate | 6.229 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(4-Bromo-benzyl)-2-phenyl-thiomorpholine | 53% yield | BrC1=CC=C(CN2CC(SCC2)C2=CC=CC=C2)C=C1 | C17H18BrNS
